US06548710B2
Aluminium chloride (35 g, 0.26 mole) was suspended in 200 ml of anhydrous dichioromethane. 2-Chloro-2-methyl-1-(1-naphthalenyl)-1-propanone (30.0 g, 0.13 mole) in 30 ml of heptane was slowly added to this suspension. During the addition (30 min) the temperature was kept at room temperature. After the addition was completed, the reaction mixture was stirred for 1 h at room temperature. The reaction mixture was poured onto 400 g of ice water, and the organic layer was separated. The organic layer was successively washed twice with a 5 wt % aqueous hydrochloric acid solution (150 ml) and once with a 2 wt % aqueous sodium bicarbonate solution (150 ml). After drying over anhydrous magnesium sulfate the solution was concentrated under reduced pressure. The yield of crude 2,3-dihydro-2-methyl-1H-benz[e]inden-1-one was 23.4 g or 93%. Distillation of the crude product under reduced pressure (b.p. 130° C., 0.5 mbar) gave 18.7 g (75%) of 2,3-dihydro-2-methyl-1H-benz[e]inden-1-one, which crystallized upon standing at room temperature.

reactant | Aluminium chloride | 0.26 mole, 35 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-Chloro-2-methyl-1-(1-naphthalenyl)-1-propanone | 0.13 mole, 30.0 g | ClC(C(=O)C1=CC=CC2=CC=CC=C12)(C)C | C14H13ClO
solvent | dichioromethane | 200 ml | ClCCl | CH2Cl2
solvent | heptane | 30 ml | CCCCCCC | C7H16
product | 2,3-dihydro-2-methyl-1H-benz[e]inden-1-one | 18.7 g, 75% | CC1CC=2C=CC3=C(C2C1=O)C=CC=C3 | C14H12O
